US07115627B2
3-Hydroxy-1-(4-methoxyphenyl)-6-(4-nitrophenyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one
Part C. A mixture of the 3-hydroxy-1-(4-nitrophenyl)-4-(trifluoroacetyl)-5,6-dihydro-2(1H)-pyridinone made above (4.91 g, 12.94 mmol), p-methoxyphenylhyrazine HCl salt (2.37 g, 13.59 mmol) in 100 mL of THF was treated with 3.62 mL of triethylamine at rt overnight. To the reaction mixture was added 100 mL of 1N HCl. The resulting mixture was refluxed for 2 h. After cool to rt the title compound was collect by filtration (4.5 g, 92%). 1H NMR (DMSO-d6, 300 MHz) δ 8.24 (2H, d, J=9.2 Hz), 7.64 (2H, d, J=9.0 Hz), 7.39 (2H, d, J=9.0 Hz), 6.94(2H, t, J=9.2 Hz), 4.13 (2H, t, J=6.6 Hz), 3.77 (3H, s), 2.85 (2H, t, J=6.6 Hz) ppm.

reactant | 3-hydroxy-1-(4-nitrophenyl)-4-(trifluoroacetyl)-5,6-dihydro-2(1H)-pyridinone | OC=1C(N(CCC1C(C(F)(F)F)=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C13H9F3N2O5
reactant | p-methoxyphenylhyrazine HCl salt | 13.59 mmol, 2.37 g | Cl.COC1=CC=C(C=C1)NN
reactant | triethylamine | 3.62 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-1-(4-methoxyphenyl)-6-(4-nitrophenyl)-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-c]pyridin-7-one | OC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)[N+](=O)[O-])=O)C2=CC=C(C=C2)OC | C19H16N4O5
